US04076812
A mixture of 149.7 g (0.5 mole) of 5-benzyl-5,11-dihydro-10H-dibenz[b,f]azepin-10-one (vide British Pat. No. 961 444),27 ml of hydrogen fluoride, 125 g of sulphur tetrafluoride and 400 ml of methylene chloride is heated in a steel autocalve for 16 hours to 70° C. After the mixture has cooled, the bulk of the liquid constituents are filtered off with suction. Then water and aqueous ammonia solution are added until the pH of the aqueous phase is 9-10. The organic phase is separated, washed three times with water, diluted with 200 ml of benzene and concentrated in a rotary evaporator. The black residue is dissolved in methylene chloride and the solution is filtered through 700 g of silica gel (particle size 0.063-0.2 mm) with methylene chloride as eluant. The filtrate is concentrated, the residue dissolved in 1.5 liters of benzene and stirred for 30 minutes with 500 g of magnesium silicate gel. The mixture is filtered and 500 g of magnesium silicate gel are again added to the filtrate. After repeated filtration, the solution is concentrated in vacuo and the black residue is chromatographed over 800 g of silica gel (particle size 0.063-0.2 mm) with hexane/benzene (2:1) as eluant. The homogeneous fractions are combined and concentrated to yield the 5-benzyl-10-fluoro-5H-dibenz[b,f]azepine as a light yellow oil.

reactant | 5-benzyl-5,11-dihydro-10H-dibenz[b,f]azepin-10-one | 0.5 mole, 149.7 g | C(C1=CC=CC=C1)N1C2=C(CC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H17NO
reactant | hydrogen fluoride | 27 ml | F | FH
reactant | sulphur tetrafluoride | 125 g | S(F)(F)(F)F | F4S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 5-benzyl-10-fluoro-5H-dibenz[b,f]azepine | C(C1=CC=CC=C1)N1C2=C(C=C(C3=C1C=CC=C3)F)C=CC=C2 | C21H16FN
